US04843082
(B) 1-Decyl-1,2,3,4-tetrahydro-8-quinolinol, hydrochloride
A solution of 575.9 mg (1.99 mmol) of 1-decyl-1,2,3,4-tetrahydro-8-quinolinol in 1 ml of ether was treated with 5 ml of hydrogen chloride-saturated ether to afford a soluble hydrochloride. Evaporation provided an oil which solidified upon standing to give 564.2 mg of a waxy, ivory-colored solid:melting point 82°-83° C.

reactant | 1-decyl-1,2,3,4-tetrahydro-8-quinolinol | 1.99 mmol, 575.9 mg | C(CCCCCCCCC)N1CCCC2=CC=CC(=C12)O | C19H31NO
reactant | hydrogen chloride | 5 ml | Cl | ClH
solvent | ether | 1 ml | CCOCC | C4H10O
product | 1-Decyl-1,2,3,4-tetrahydro-8-quinolinol, hydrochloride | Cl.C(CCCCCCCCC)N1CCCC2=CC=CC(=C12)O | InChI=1S/C19H31NO.ClH/c1-2-3-4-5-6-7-8-9-15-20-16-11-13-17-12-10-14-18(21)19(17)20;/h10,12,14,21H,2-9,11,13,15-16H2,1H3;1H
